US06821971B2
Preparation of 2-(4-fluorophenyl)-3-(2-methanesulfonyl-pyrimidin-4-yl)-2,3,5,8-tetrahydro-pyrazolo[1,2-a]pyridazin-1-one (12):
To a solution of 2-(4-fluorophenyl)-3-(2-methylsulfanyl-pyrimidin-4-yl)-2,3,5,8-tetrahydro-pyrazolo[1,2-a]pyridazin-1-one, 11, (2.4 g, 6.8 mmol) in THF:MeOH (80 mL of 1:1 mixture) is added dropwise a solution of OXONE® (16.8 g, 27.2 mmol) in H2O (80 mL). After stirring 2 hours at room temp, the reaction mixture is diluted with aqueous saturated NaHCO3 and extracted with EtOAc (3×). The combined organic phases are dried, filtered, and concentrated in vacuo to afford 1.5 g (58% yield) of the desired product as a yellow solid.

reactant | 2-(4-fluorophenyl)-3-(2-methylsulfanyl-pyrimidin-4-yl)-2,3,5,8-tetrahydro-pyrazolo[1,2-a]pyridazin-1-one | FC1=CC=C(C=C1)C1C(N2N(CC=CC2)C1=O)C1=NC(=NC=C1)SC | C18H17FN4OS
reactant | MeOH | 80 mL | CO | CH4O
reactant | OXONE | OOS(=O)[O-].[K+]
solvent | THF | C1CCOC1 | C4H8O
solvent | H2O | 80 mL | O | H2O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 2-(4-fluorophenyl)-3-(2-methanesulfonyl-pyrimidin-4-yl)-2,3,5,8-tetrahydro-pyrazolo[1,2-a]pyridazin-1-one | 1.5 g, 58% yield | FC1=CC=C(C=C1)C1C(N2N(CC=CC2)C1=O)C1=NC(=NC=C1)S(=O)(=O)C | C18H17FN4O3S
